US07589095B2
A stirred mixture of 3-hydroxy-1-(3-trifluoromethylphenyl)-hex-2-en-1-one (259 mg), urea (90 mg), HCl (0.15 mL, 5M) and ethanol (5 mL) was heated at reflux for 16 h. Further urea (60 mg) and HCl (0.15 mL, 5M) were added and heating continued at reflux for 24 h. The mixture was allowed to cool and the solvent was evaporated at reduced pressure. The residue was dissolved in a mixture of ethyl acetate (20 mL) and water (20 mL), the organic layer was separated and further washed with a solution of saturated sodium carbonate (20 mL) followed by water (20 mL). The ethyl acetate extract was then dried over sodium sulphate and evaporated at reduced pressure to afford 6-propyl-4-(3-trifluoromethylphenyl)-1H-pyrimidin-2-one as a brown solid (204 mg). MS m/z 283.0 (M+1), 100%.

reactant | 3-hydroxy-1-(3-trifluoromethylphenyl)-hex-2-en-1-one | 259 mg | OC(=CC(=O)C1=CC(=CC=C1)C(F)(F)F)CCC | C13H13F3O2
reactant | urea | 90 mg | NC(=O)N | CH4N2O
reactant | HCl | 5M, 0.15 mL | Cl | ClH
reactant | urea | 60 mg | NC(=O)N | CH4N2O
reactant | HCl | 5M, 0.15 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 6-propyl-4-(3-trifluoromethylphenyl)-1H-pyrimidin-2-one | 204 mg | C(CC)C1=CC(=NC(N1)=O)C1=CC(=CC=C1)C(F)(F)F | C14H13F3N2O
